US09233920B2
Potassium cyanide (0.0090 g, 0.139 mmol) and acetone cyanohydrin (0.034 ml, 0.372 mmol) were added to a solution of 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-N-(3-methyl-thietan-3-yl)-benzamide (0.0600 g, 0.123 mmol) in toluene (3.0 ml). To this vigorously stirred suspension was added 2,3,4,5,6-pentafluorophenyl-methyl quininium chloride (0.0180 g, 0.031 mmol). The reaction mixture was stirred at 90° C. for 6 days. After this time water was added and the reaction mixture was extracted with dichloromethane (3×). The crude product was purified by flash chromatography (0% to 25% ethyl acetate in cyclohexane) to afford 4-[(R)-3-Cyano-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-N-(3-methyl-thietan-3-yl)-benzamide (0.015 g, 24%) as a light yellow solid. Chiral HPLC analysis (Chiralpack IB, Heptane:2-propanol=70:30, 1 ml/min, retention time 5.91 minutes (major enantiomer), 5.31 minutes (minor enantiomer) indicated that the reaction proceeded with 69% enantioselectivity.

reactant | Potassium cyanide | 0.139 mmol, 0.0090 g | [C-]#N.[K+]
reactant | acetone cyanohydrin | 0.372 mmol, 0.034 ml | CC(C#N)(O)C | C4H7NO
reactant | 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-N-(3-methyl-thietan-3-yl)-benzamide | 0.123 mmol, 0.0600 g | ClC=1C=C(C=C(C1)Cl)\C(=C/C(=O)C1=CC(=C(C(=O)NC2(CSC2)C)C=C1)C)\C(F)(F)F | C22H18Cl2F3NO2S
reactant | water | O | H2O
solvent | toluene | 3.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(R)-3-Cyano-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-N-(3-methyl-thietan-3-yl)-benzamide | 0.015 g, 24% | C(#N)[C@](CC(=O)C1=CC(=C(C(=O)NC2(CSC2)C)C=C1)C)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C23H19Cl2F3N2O2S
